US09193738B2
A Microwave vial was charged with (4aSR*,5RS*,10bSR*)-9-(isopentyloxy)-5-(piperidin-4-yl)-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinoline (80 mg, 0.22 mmol, 1 equiv.), benzaldehyde (24 mg, 22 μL, 0.22 mmol, 1 equiv.), NaBH(OAc)3 (95 mg, 0.44 mmol, 2 equiv.) followed by DCE (2.5 mL) under argon atmosphere. This reaction mixture was heated under microwave heating at 90° C. for 10 min. After cooling back to r.t., the reaction mixture was quenched with sat. NaHCO3 solution and diluted with CH2Cl2. The phases were separated and the organic phase additional extracted with CH2Cl2 twice. The combined organic phases were dried over MgSO4 and the solvent removed under reduced pressure after filtration. The residue was purified by Combiflash chromatography (SiO2, c-Hexane/AcOEt) to afford (4aSR*,5RS*,10bSR*)-5-(1-benzylpiperidin-4-yl)-9-(isopentyloxy)-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinoline (38 mg, 38%). The compound was prepared as hydrochloride salt following the method described in example 1.

reactant | 9-(isopentyloxy)-5-(piperidin-4-yl)-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinoline | 0.22 mmol, 80 mg, 1 equiv. | C(CC(C)C)OC1=CC=2C3C(C(NC2C=C1)C1CCNCC1)CCCO3 | C22H34N2O2
reactant | benzaldehyde | 0.22 mmol, 22 μL, 24 mg, 1 equiv. | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH(OAc)3 | 0.44 mmol, 95 mg, 2 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 2.5 mL | ClCCCl | C2H4Cl2
product | 5-(1-benzylpiperidin-4-yl)-9-(isopentyloxy)-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinoline | 38 mg, 38% | C(C1=CC=CC=C1)N1CCC(CC1)C1NC=2C=CC(=CC2C2C1CCCO2)OCCC(C)C | C29H40N2O2
